US07723330B2
Step A: Preparation of 5-chloro-1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one:
3,5-dichloro-1-(4-fluorophenyl)pyrazin-2(1H)-one (13.0 g, 50.2 mmol; prepared by according to the general methods described by M. Tutonda, et al., Tetrahedron, 1990, 46, 5715) dissolved in absolute methanol (100 mL) was treated with NaOMe (6.78 g, 125 mmol). The reaction mixture was stirred at room temperature for 1 hour, neutralized with 2 N HCl (Et2O solution), and evaporated the solvent under reduced pressure. The residue was treated with EtOAc, washed with 0.5 N HCl, dried over MgSO4, and concentrated under reduced pressure to give the desired product (12.8 g, 100%). LRMS (ESI pos) m/e 254.9, 256.9 (M+1, Cl pattern).

reactant | 3,5-dichloro-1-(4-fluorophenyl)pyrazin-2(1H)-one | ClC=1C(N(C=C(N1)Cl)C1=CC=C(C=C1)F)=O | C10H5Cl2FN2O
reactant | NaOMe | 125 mmol, 6.78 g | C[O-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 5-chloro-1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one | 12.8 g, 100% | ClC=1N=C(C(N(C1)C1=CC=C(C=C1)F)=O)OC | C11H8ClFN2O2
